US07863291B2
A mixture of 6-chloropyrimidin-4-amine (0.324 g, 2.5 mmol), 3-chlorophenylboronic acid (0.489 g, 3.13 mmol), Na2CO3 (0.795 g, 7.50 mmol) and bis(triphenylphosphine)palladium(II)chloride (0.035 g, 0.050 mmol) was suspended in a mixture of DME/EtOH/wate (15:2:3 mL). The mixture was heated in the microwave synthesizer at 125° C. for 20 min and concentrated. The residue was purified by silica gel chromatography (30-70% ethyl acetate in hexanes) to afford: 6-(3-chlorophenyl)pyrimidin-4-amine (0.47 g, 2.286 mmol, 91% yield) as a yellow solid. LCMS R.T.=1.45; [M+2H]+=208.05.

reactant | 6-chloropyrimidin-4-amine | 2.5 mmol, 0.324 g | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | 3-chlorophenylboronic acid | 3.13 mmol, 0.489 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 7.50 mmol, 0.795 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH | COCCOC.CCO
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.050 mmol, 0.035 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(3-chlorophenyl)pyrimidin-4-amine | 2.286 mmol, 0.47 g, 91% yield | ClC=1C=C(C=CC1)C1=CC(=NC=N1)N | C10H8ClN3
